US04529799
(c) 1,1-Bis-(5-chloropyrid-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol
2,2-Bis(5-chloro-pyrid-2-yl)oxirane (0.8 g), 1,2,4-triazole (1.0 g) and anhydrous potassium carbonate (3.0 g) were stirred in dry N,N-dimethylformamide (30 ml) and the mixture was heated at 85° C. for 1.5 hours. The solvent was then evaporated under vacuum, with the addition of xylene to remove final traces of N,N-dimethylformamide as an azeotrope, and the residue was dissolved in water (20 ml) and extracted with ethyl acetate (3×20 ml). The combined organic extracts were dried over megnesium sulfate and evaporated. The residue was chromatographed on silica, eluting with ethyl acetate. Evaporation of the relevant fractions gave a viscous oil which solidified on trituration with petroleum ether (b.p. 60°-80° C.). Recrystallization from hexane gave the title compound as white crystals (0.48 g, 38%) m.p. 98°-100° C.

reactant | 2,2-Bis(5-chloro-pyrid-2-yl)oxirane | 0.8 g | ClC=1C=CC(=NC1)C1(OC1)C1=NC=C(C=C1)Cl | C12H8Cl2N2O
reactant | 1,2,4-triazole | 1.0 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,1-Bis-(5-chloropyrid-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol | 0.48 g, 38% | ClC=1C=CC(=NC1)C(CN1N=CN=C1)(O)C1=NC=C(C=C1)Cl | C14H11Cl2N5O
